US08497369B2
4-[4-(3-chloro-2-fluoro-phenylamino)-7-methoxy-quinazolin-6-yloxy]-cyclohexanone
3.25 ml phosphorus oxychloride are added dropwise to 6.50 g 6-(1,4-dioxa-spiro[4.5]dec-8-yloxy)-7-methoxy-3H-quinazolin-4-one in 65 ml acetonitrile under an argon atmosphere. Then the reaction mixture is heated to 40° C., combined dropwise with 5.00 ml triethylamine and refluxed for 2 h. After cooling to ambient temperature 1.40 ml triethylamine and 2.60 ml 3-chloro-2-fluoro-aniline, dissolved in 5 ml acetonitrile, are added and the reaction mixture is stirred overnight at 40° C. Then a further 0.70 ml of 3-chloro-2-fluoro-aniline dissolved in 2 ml acetonitrile are added dropwise and the reaction mixture is stirred for a further 10 h. After cooling to ambient temperature the precipitate formed is suction filtered, taken up in 1 N hydrochloric acid, combined with 6 N isopropanolic hydrochloric acid and stirred at ambient temperature until the ketal cleaving is complete. The precipitate formed is suction filtered and combined with methylene chloride and 1 N sodium hydroxide solution. The aqueous phase is separated off and extracted with methylene chloride, the combined extracts are evaporated down and the flask residue is brought to crystallisation with diisopropylether.

reactant | phosphorus oxychloride | 3.25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-(1,4-dioxa-spiro[4.5]dec-8-yloxy)-7-methoxy-3H-quinazolin-4-one | 6.50 g | O1CCOC12CCC(CC2)OC=2C=C1C(NC=NC1=CC2OC)=O | C17H20N2O5
reactant | triethylamine | 5.00 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 1.40 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-2-fluoro-aniline | 2.60 ml | ClC=1C(=C(N)C=CC1)F | C6H5ClFN
reactant | 3-chloro-2-fluoro-aniline | 0.70 ml | ClC=1C(=C(N)C=CC1)F | C6H5ClFN
solvent | acetonitrile | 65 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 4-[4-(3-chloro-2-fluoro-phenylamino)-7-methoxy-quinazolin-6-yloxy]-cyclohexanone | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC1CCC(CC1)=O)OC)F | C21H19ClFN3O3
